US08455525B2
4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile
Triphenylphosphine (331 mg, 1.26 mmol) was dissolved in 25 mL of DCM followed by addition of 12 (321 mg, 1.26 mmol) and TEA (256 mg, 2.53 mmol) at 0° C. 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-fluorobenzohydrazide (410 mg, 0.631 mmol) in 15 mL DCM was added to the pre-cooled solution mixture of PPh3/I2/TEA system and stirred. The temperature was allowed to rise to room temperature and stirred for additional 10 min. The reaction was quenched with 50 mL saturated sodium thiosulfate and extracted with EtOAc. The crude mixture was chromatographed to give the product (400 mg). 1H NMR (500 MHz, CDCl3, δ in ppm): 7.69 (m, 3H), 7.54 (d, J=9 Hz, 1H), 7.35 (t, J=9 Hz, 1H), 6.65 (d, J=9 Hz, 1H), 5.56 (d, J=9 Hz, 1H), 4.99 (m, 1H), 4.74 (m, 1H), 2.37 (s, 3H), 1.62 (d, J=6 Hz, 3H), 1.20 (s, 9H), 1.06 (s, 9H), 0.40 (s, 6H), 0.27 (s, 3H), 0.00 (s, 3H).

reactant | Triphenylphosphine | 1.26 mmol, 331 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-(tert-butyldimethylsilyloxy)-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-fluorobenzohydrazide | 0.631 mmol, 410 mg | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)NNC([C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=CC1F | C31H46ClFN4O4Si2
reactant | DCM | 25 mL | C(Cl)Cl | CH2Cl2
reactant | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-((1R,2S)-2-(tert-Butyldimethylsilyloxy)-1-(5-(3-(tert-butyldimethylsilyloxy)-4-fluorophenyl)-1,3,4-oxadiazol-2-yl)propylamino)-2-chloro-3-methylbenzonitrile | 400 mg | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C=1OC(=NN1)C1=CC(=C(C=C1)F)O[Si](C)(C)C(C)(C)C)NC1=C(C(=C(C#N)C=C1)Cl)C)C | C31H44ClFN4O3Si2
